US04933338
2.6 g (0.11 mol) of sodium hydride are added to a solution of 29.8 g (0.1 mol) of 6-nitro-1,N-diethyl-1H-benzimidazole-2-sulfonamide in 100 ml of dimethylformamide. The solution is stirred for one hour at 40° C., 10.8 g (0.1 mol) of ethyl bromide are added and the mixture is stirred for 12 hours at 50° C. It is poured into water and the product is filtered off and washed with water. The precipitate is recrystallized from ethanol to give 25.6 g (78%) of 6-nitro-1,N,N-triethyl-1H-benzimidazole-2-sulfonamide melting at 90°-1° C.

reactant | sodium hydride | 0.11 mol, 2.6 g | [H-].[Na+]
reactant | 6-nitro-1,N-diethyl-1H-benzimidazole-2-sulfonamide | 0.1 mol, 29.8 g | [N+](=O)([O-])C=1C=CC2=C(N(C(=N2)S(=O)(=O)NCC)CC)C1 | C11H14N4O4S
reactant | ethyl bromide | 0.1 mol, 10.8 g | C(C)Br | C2H5Br
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-nitro-1,N,N-triethyl-1H-benzimidazole-2-sulfonamide | 25.6 g, 78% | [N+](=O)([O-])C=1C=CC2=C(N(C(=N2)S(=O)(=O)N(CC)CC)CC)C1 | C13H18N4O4S
